US04433152
A mixture of 2 g of 1-amidino-4-piperdineacetic acid hydrochloride and 3.2 g of diphenylsulfite was stirred at room temperature for 1.5 hours in a solution of 10 ml of dry dimethylformamide and 3 ml of dry pyridine. The solvent was removed under reduced pressure, and the residue was washed several times with ether to give crystals. The crystals were washed with ethyl acetate and then with ether to obtain 2.4 g (yield: 89%) of phenyl 1-amidino-4-piperidineacetate hydrochloride as colorless crystalline powder having a melting point of 131° to 136.5° C.

reactant | 1-amidino-4-piperdineacetic acid hydrochloride | 2 g | Cl.C(N)(=N)N1CCC(CC1)CC(=O)O
reactant | diphenylsulfite | 3.2 g | C1(=CC=CC=C1)OS(=O)OC1=CC=CC=C1 | C12H10O3S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | phenyl 1-amidino-4-piperidineacetate hydrochloride | 2.4 g, yield: 89% | Cl.C(N)(=N)N1CCC(CC1)CC(=O)OC1=CC=CC=C1 | InChI=1S/C14H19N3O2.ClH/c15-14(16)17-8-6-11(7-9-17)10-13(18)19-12-4-2-1-3-5-12;/h1-5,11H,6-10H2,(H3,15,16);1H
